US04803286
Step A: Preparation of 4-Carbomethoxy-4-methyltetrahydrothiophenone
To a solution of 4.65 g (29.0 mmol) of 4-carbomethoxytetrahydro-3-thiophenone in 20 ml of dry DMSO cooled in a cold-water bath at 12° C. under argon was added 1.73 g (32.0 mmol) of sodium methoxide. The mixture was stirred 30 minutes and a solution of 4.97 g (35.0 mmol) of methyl iodide in 1 ml of dry DMSO was added dropwise. The mixture was stirred overnight at room temperature, than diluted with water (60 ml) and extracted with methylene chloride (3×75 ml). The extract was washed with water (50 ml) and brine, dried over sodium sulfate, filtered, and concentrated in vacuo to give 5.4 g of an oil. The oil was flash chromatographed on silica gel eluting with 3:1 hexane:ether to give 1.49 g (30%) of the product as an oil; NMR (deuteriochloroform): δ 3.76 (S, 3H), 3.70 (m, 1H), 3.50 (dd, 1H), 3.30 (dd, 1H), 2.83 (d, 1H), 1.46 (S, 3H).

reactant | 4-carbomethoxytetrahydro-3-thiophenone | 29.0 mmol, 4.65 g | C(=O)(OC)C1C(CSC1)=O | C6H8O3S
reactant | sodium methoxide | 32.0 mmol, 1.73 g | C[O-].[Na+]
reactant | methyl iodide | 35.0 mmol, 4.97 g | CI | CH3I
reactant | DMSO | 20 ml | CS(=O)C | C2H6OS
reactant | DMSO | 1 ml | CS(=O)C | C2H6OS
solvent | water | 60 ml | O | H2O
product | 4-Carbomethoxy-4-methyltetrahydrothiophenone | 5.4 g | C(=O)(OC)C1(CCS(C1)=O)C | C7H12O3S
